US09216173B2
To a flask were added tert-butyl {(2S)-1-[(5-bromo-6-cyanopyridin-3-yl)amino]propan-2-yl}carbamate (200 mg, 0.56 mmol), 2-amino-4,6-dimethylpyridine (103 mg, 0.844 mmol), tris(dibenzylideneacetone)dipalladium(0)-dichloromethane complex (52 mg, 0.051 mmol), Xantphos (65 mg, 0.11 mmol), and cesium carbonate (367 mg, 1.13 mmol). 1,4-Dioxane (3 mL) was then added and nitrogen was bubbled into the reaction for 5 minutes. The reaction mixture was then stirred at 80° C. for 16 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The mixture was washed with saturated aqueous ammonium chloride, and the organics were separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to afford tert-butyl [(2S)-1-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)-amino]pyridin-3-yl}amino)propan-2-yl]carbamate. MS ESI calc'd. for C21H29N6O2 [M+H]+ 397. found 397.

reactant | tert-butyl {(2S)-1-[(5-bromo-6-cyanopyridin-3-yl)amino]propan-2-yl}carbamate | 0.56 mmol, 200 mg | BrC=1C=C(C=NC1C#N)NC[C@H](C)NC(OC(C)(C)C)=O | C14H19BrN4O2
reactant | 2-amino-4,6-dimethylpyridine | 0.844 mmol, 103 mg | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | Xantphos | 0.11 mmol, 65 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.13 mmol, 367 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | tert-butyl [(2S)-1-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)-amino]pyridin-3-yl}amino)propan-2-yl]carbamate | C(#N)C1=C(C=C(C=N1)NC[C@H](C)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C21H28N6O2
